US07196090B2
1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(4-hydroxy-butylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as in Example 2 using 0.4 g (1.01 mmol) 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.27 g (3.03 mmol) 4-amino-butan-1-ol. The final product was purified by column chromatography (20:1 dichloromethane/methanol). This gave 0.375 g (88%) of 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(4-hydroxy-butylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid: mp 129° C.–131° C.; MS (APCI) m+1/z 420.

reactant | 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.01 mmol, 0.4 g | C(C)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2)OC)OC)F)=O | C17H19FN4O4S
reactant | 4-amino-butan-1-ol | 3.03 mmol, 0.27 g | NCCCCO | C4H11NO
product | 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(4-hydroxy-butylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C(C)N1C(N(CC=2C1=NC(=NC2)NCCCCO)C2=C(C(=CC(=C2)OC)OC)F)=O | C20H26FN5O4
